US05318720
In a 50 ml-three-necked flask, 0.50 g (2.43 mM) of 2-amino-4-octylphenol, 0.82 g (2.54 mM) of 4-decyloxybenzoyl chloride and 20 ml of dioxane were placed and heated. To the mixture, 0.88 ml of pyridine was gradually added dropwise at around 90° C. under stirring, followed by further stirring for 35 minutes at around 90° C. After the reaction, the reaction mixture was poured into water to precipitate a crystal. The crystal was recovered by filtration and washed with water, followed by recrystallization from hydrous acetone to obtain 1.06 g of 2-(4-decyloxybenzoylamino)-4-octylphenol (yield: 90.4%).

reactant | 2-amino-4-octylphenol | 2.43 mM, 0.50 g | NC1=C(C=CC(=C1)CCCCCCCC)O | C14H23NO
reactant | 4-decyloxybenzoyl chloride | 2.54 mM, 0.82 g | C(CCCCCCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C17H25ClO2
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | pyridine | 0.88 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(4-decyloxybenzoylamino)-4-octylphenol | 1.06 g, yield: 90.4% | C(CCCCCCCCC)OC1=CC=C(C(=O)NC2=C(C=CC(=C2)CCCCCCCC)O)C=C1 | C31H47NO3
